* INA282
*****************************************************************************
* (C) Copyright 2010 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Parts: INA282,INA283,INA284,INA285,INA286
* Date: 2011-09-09
* Model Type: Pspice
* Simulator: Pspice
* Simulator Version: 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS485A -NOVEMBER 2009-REVISED JULY 2010
*
* Model Version 1.3
*****************************************************************************
* 
* Updates:
*
* Version 1.2
* version 1.3: Corrections to internal clocking subcircuits
*
*****************************************************************************
* INA282 - HIGH-ACCURACY, WIDE COMMON-MODE RANGE, BI-DIRECTIONAL
* CURRENT SHUNT MONITOR
*
* For best accuracy, enable the internal clocking circuitry 
*   by setting TR_Mode = 1 in the subcircuit definition line.
* 
* To reduce simulation times select TR_Mode=0 in the subcircuit line.
*   Note the model will have reduced accuracy w/respect to device behavior. 
* 
*
* AVAILABLE GAINS in the device family:
*–   50V/V : INA282
*–  100V/V : INA286
*–  200V/V : INA283
*–  500V/V : INA284
*– 1000V/V : INA285
*
*
******************************************************************************
* INA282 SUBCIRCUIT
.SUBCKT INA282 IN+ IN- V+ GND OUT REF1 REF2	  
+ PARAMS: TR_Mode=1 
.Param G=50
XU1 IN+ IN- V+ GND OUT REF1 REF2 INA28X PARAMS: TR_MODE={TR_Mode} G={G} 	
.ENDS
*$
*
.SUBCKT INA28X IN+ IN- V+ GND OUT REF1 REF2	  
+ PARAMS: TR_Mode=0 G=200
.Param RONSnl= 2
.Param G1=5
*{Gain Error ±0.4 ±1.4 %}
.Param hRrg= 0.002
.Param RG30={5k}
.Param RG3={(1+hRrg)*RG30-RONSnl}
.Param RG4={(1+hRrg/2)*RG30-RONSnl}
.Param RG1= {(1-hRrg)*RG30*G/G1}
.Param Rref={(1-hRrg/2)*33.3k}
.Param Rr1={(1-hRrg)*Rref}
.Param Rr2={(1+hRrg)*Rref}
*.Param Rref=16.65k
.Param RG2={(1-hRrg/2)*RG30*G/G1 - Rref/2}
*.Param TC1=4.0211U
.Param TC12=4.0211U
.Param TC1={TC12*0.5}
*$
XControl IAVDD GND IGND nACm Vreg V+ ClkF2_ ClkF1_ ClkF1 ClkF2 Startup VM ACm 
+ Bias Control_0  PARAMS: TR_MODE={TR_Mode} 
XU3         POut 20 VOST_0
XD7         GND REF2 D_D2_0
XD6         REF2 V+ D_D2_0
XD5         GND REF1 D_D2_0
XD4         REF1 V+ D_D2_0
XD2         GND OUT D_D2_0
XD1         OUT V+ D_D2_0
XDA2        GND IN+ DZZ_15_80V_0
XDA1        GND IN- DZZ_15_80V_0
Snl1        Neg_26 27 NLContr GND  S_VSWITCH_1
Snl2        28 Plus_29 NLContr GND  S_VSWITCH_2
EAVDD       AVDDM 0 V+ 0  500M
ENLContr    NLContr GND VALUE = {ABS(V(OUT,AVDDM))/(ABS(V(V+,GND)+1m))}
XSW_S1      IN+ VInsw+ ClkF2 ACm SW1_0
XSW_H1      IN- VInsw+ ClkF1 ACm SW1_0
Csw1        VInsw+ Plus_32 10P  
XSW_H2      IN+ VInsw- ClkF1 ACm SW1_0
XSW_S2      IN- VInsw- ClkF2 ACm SW1_0
Csw2        VInsw- Neg_33 9.999999P  
XSW_H3      Plus_32 Vsw1+ ClkF1 nACm SW2_0
XSW_S3      Vsw1+ NOut ClkF2 ACm SW2_0
Csw3        Plus_32 Vsw1+ 4P  
XSW_H4      Neg_33 Vsw1- ClkF1 nACm SW2_0
XSW_S4      Vsw1- POut ClkF2 ACm SW2_0
Csw4        Neg_33 Vsw1- 4.0000004P  
XBias       GND IN- IGND IN+ Vreg Startup IAVDD V+ VM Bias_0
XU8         30 Plus_32 ACm CEQRES_ACM_0
+ PARAMS: C=20P TSW=0.004U 
XU7         31 Neg_33 ACm CEQRES_ACM_0
+ PARAMS: C=19.999998P TSW=0.004U 
EVCS4       30 VM IN+ UkAC  1
EVCS2       VM 31 UkAC IN-  1
XU5         20 VM 24 VM ACm ZOH_0
+ PARAMS: TSW=4.0U VOFFS=20U VLIMP=80M VLIMN=-80M
XU6         NOut VM 25 VM ACm ZOH_0
+ PARAMS: TSW=4.0U VOFFS=20U VLIMP=80M VLIMN=-80M
XU4         IN+ UkAC ACm CEQRES_ACM_0
+ PARAMS: C=20P TSW=4U 
XU3_2       IN- UkAC ACm CEQRES_ACM_0
+ PARAMS: C=19.999998P TSW=4U 
XINA28X_diff_ioa IGND ClkF2_ Startup IAVDD Neg_33 NOut UkAC Bias Plus_32 ClkF1_ 
+ POut VM ClkF1 ClkF2 GND V+ nACm ACm INA21Xopa_0 
Cc2         Plus_29 GND 100F  
Cc1         Neg_26 OUT 100F  
XINA28X_diff_in_se_o IGND ClkF2_ Startup IAVDD Neg_26 OUT V+ Bias Plus_29 ClkF1_ 
+ ClkF1 ClkF2 VM GND nACm ACm INA21Xopa_1 
Rr2         REF2 40 {Rr2} TC={-TC1},-1N
Rr1         REF1 40 {Rr1} TC={-TC1},-1N
RG4         28 24 {RG4} TC={TC1},1N
RG3         27 25 {RG3} TC={TC12},1N
RG2         40 Plus_29 {RG2} TC={-TC1},-1N
RG1         OUT Neg_26 {RG1} TC={-TC12},-1N
XU2         Neg_33 POut ACm CEQRES_ACM_0
+ PARAMS: C=4.0000004P TSW=0.004U 
XU1         Plus_32 NOut ACm CEQRES_ACM_0
+ PARAMS: C=4P TSW=0.004U 

.MODEL S_VSWITCH_1 VSWITCH (RON={RONSnl} ROFF=31.99 VON=0 VOFF=1)
.MODEL S_VSWITCH_2 VSWITCH (RON={RONSnl} ROFF=31.99 VON=0 VOFF=1)
.ENDS

.SUBCKT Control_0 IAVDD GND IGND nACm Vreg AVDD ClkF2_ ClkF1_ ClkF1 ClkF2 
+ Startup VM ACm Bias 
+ PARAMS: TR_Mode=0
VS1         Vcc 0 1
IS3         AVDD 51 5.1U
VS3         52 GND 1
EVCVS2      Vreg GND VALUE = {V(VZ1,0)}
GIB1        0 VBias POLY(1) Vreg 0 630.8N 61.5N 
R4          VZ1 GND 50MEG 
XD5         45 AVDD D_LIM1_0
XClkF1      0 46 CLKF1_0
+ PARAMS: TR_MODE={TR_Mode} 
XACm        0 ACm ACMODE_0
+ PARAMS: TR_MODE={TR_Mode} 
XClkF32     Startup ClkF3 CLKF1_1
+ PARAMS: TR_MODE={TR_Mode} 
XClkF2      0 48 CLKF1_2
+ PARAMS: TR_MODE={TR_Mode} 
XD2         VF4 50 D_LIM2_0
XD3         51 AVDD D_LIM2_0
XD1         52 VF2_53 D_LIM2_0
GCS1        VF2_53 GND VBias 0 1
Rb3         VBias 0 4 TC=1.87M,-3.77U
EVCVS1      nACm 0 ACm 0  -1
XD4         AVDD 45 D_D4_0
XDZb1       GND VZ1 D_ZB1_0
Rs4         45 VZ1 200K 
R2          ClkF2 IGND 1K 
SW2         48 ClkF2 ClkStart IGND  S_VSWITCH_1
R2_2        ClkF1 Vcc 1K 
SW2_2       46 ClkF1 ClkStart IGND  S_VSWITCH_2
R1          ClkStart 0 4MEG 
XSW1        Vcc ClkStart ClkF3 IGND  SW PARAMS: RON=1 ROFF=1G VH=750M VT=1
Rclk2       0 ClkF1_ 10M 
Rclk2a      0 ClkF1_ 10M 
Rclk1       0 ClkF2_ 10M 
Rclk1a      0 ClkF2_ 10M 
EAVDD       VM 0 VALUE = {0.5*V(IAVDD,0)}
VCCVSB1_in  50 VF2_53
HCCVSB1     Bias GND VCCVSB1_in  250K
Cc1         VF4 GND 5P  
R3          51 VF4 1K 
XU1         AVDD GND Startup GND HYSTCOMP_0
+ PARAMS: VTHRES=2.55 VHYST=50M VOUTH=1 VOUTL=0 ROUT=100 TDEL=1N 
EAVDD_2     IAVDD 0 VALUE = {LIMIT(2.2*(V(VZ1,0)),0,4.1)}
EGND        IGND 0 GND 0  1
.MODEL S_VSWITCH_1 VSWITCH (RON=1 ROFF=1G VON=900M VOFF=100M)
.MODEL S_VSWITCH_2 VSWITCH (RON=1 ROFF=1G VON=900M VOFF=100M)
.ENDS


.SUBCKT Bias_0 GND VBus2 IGND VBus1 Vreg Startup IAVDD AVDD VM
VIBVS1      BVS1 63 ; Current Arrow
VBVS3       60 GND 700M
ISb1        VB1 60 14U
XD6         60 VB1 D_LIM1_0
XD5         VB2 63 D_LIM1_0
XD3         GND CM_R D_LIM1_0
EBVS1       BVS1 GND VALUE = {(V(CM_R,0)-0.60)/2}
R2          65 VB3 20K TC=-1.1M,1U
VISb3s_in   67 IGND
FISb3s      VB2 63 VISb3s_in   -1
RSb3        Vreg 67 100K TC=-1.1M,1U
FBCS2       AVDD GND VIBVS1 1
Rb2         VB2 63 2MEG 
XD7         VB2 65 D_DB7_0
VCq1_in     Vreg 68
FCq1        AVDD GND VCq1_in     1
XD4         VB3 VB1 D_DB4_0
R1          VB1 60 1G 
XD2         68 CM_R D_DB2_0
XD1         VB3 CM_R D_DB1_0
GISb2       CM_R GND Startup GND  36U
Rp2         CM_R GND 200MEG 
Ci6         VB3 GND 1P  
Ci5         CM_R GND 1P  
Rbus2       VBus2 VB3 2.94K 
Rbus1       VBus1 VB3 3.06K 
.ENDS


.SUBCKT INA21Xopa_0 IGND ClkF2_ Startup IAVDD Neg NOut UkAC Bias Plus ClkF1_ 
+ POut VM ClkF1 ClkF2 GND AVDD nACm ACm 
XInput1 VM Neg IGND Bias IAVDD Startup N_Out_72 UkAC P_Out_73 Plus GND ClkF1_ 
+ ClkF1 ACm AVDD Input1_0 
XSW_H1      Neg Plus ClkF1 ACm SW2_0
XSW_S1      N_Out_72 Neg_74 ClkF2 nACm SW2_0
XSW_S1_2    P_Out_73 Plus_75 ClkF2 nACm SW2_0
C9          Plus_75 NOut 4P  
C36         Neg_74 POut 4P  
C37         Neg_74 GND 1P  
C38         Plus_75 GND 1P  
XOutput1    VM Neg_74 IGND GND IAVDD Startup NOut AVDD POut Plus_75 Output1_0
.ENDS

.SUBCKT Input1_0 VM Neg IGND Bias IAVDD Startup N_Out UkAC P_Out Plus GND ClkF1_ 
+ ClkF1 ACm AVDD 
VCMref      CMref GND 12
Vdrop21     83 IGND 816.7233187092M
Vdrop11     IAVDD 84 816.7233187092M
Vdrop2      85 IGND 816.7233187092M
Vdrop1      IAVDD 86 816.7233187092M
XD8         Neg AVDD D_LIM4_0
XD9         GND Neg D_LIM4_0
XD7         GND Plus D_LIM4_0
XD6         Plus AVDD D_LIM4_0
EVSe        VF2_81 VA- POLY(2) Vecm VM Venoise IGND 0 -1 1 0 
XT1         VF2_81 Plus VF1 Q_PMOS_0
+ PARAMS: M=1 L=1.4U W=10.4U
XT2         VA+_78 Neg VF1 Q_PMOS_0
+ PARAMS: M=1 L=1.4U W=10.4u 
XD2         83 N_Out D_LIM1_0
XD1         N_Out 84 D_LIM1_0
XD5         85 P_Out D_LIM1_0
XD4         P_Out 86 D_LIM1_0
XD3         VF1 AVDD D_LIM1_0
Rnoise      Venoise IGND 416.8108966753K 
Ci123       Neg GND 100F  
Ci122       Plus GND 100F  
Ci121       Neg Plus 100F  
R1c         Plus GND 100G 
R2s         Neg GND 100G 
EUkAcm      88 VM VALUE = {4.213299*(V(UkAC,0)-V(CMref,0))}
Ci133       N_Out VM 14.0863206968F  
Ci134       P_Out VM 14.0863206968F  
R210        89 VM 1.999 
L4          89 VM 31.8150731241U  
R20         Vecm 89 1M 
G8          VM Vecm VCM 88  19.0233277669U
R8          N_Out VM 56.4927302586MEG 
Gi12        VM N_Out VA- VA+_78  33.9292006588U
R7          P_Out VM 56.4927302586MEG 
Gi11        VM P_Out VA+_78 VA-  33.9292006588U
R100        AVDD VF1 1G 
GIEE        AVDD VF1 Bias GND  2.4U
Ci11        VA+_78 VF2_81 270F  
R4g         GND VF2_81 29.4731376096K 
R3g         GND VA+_78 29.4731376096K 
R1c_2       VCM Plus 500G 
R2c         Neg VCM 500G 
.ENDS


.SUBCKT Output1_0 VM Neg IGND GND IAVDD Startup NOut AVDD POut Plus
VdrophO1    IAVDD 93 1.1191495908
VdroplO1    92 IGND 1.1191495908
XD1         92 VB D_LIM1_0
XD4         VB 93 D_LIM1_0
Ro15        VM Neg 1G 
Ro12        Plus VM 1G 
Ro11        Neg Plus 1G 
Co11        Neg Plus 100F  
Co13        IGND Neg 100F  
Co12        Plus IGND 100F  
Ro13        NOut VM 158.4893192461 
Go11        VM NOut VM VB  6.3095734448M
Ro14        POut VM 158.4893192461 
Go12        VM POut VB VM  6.3095734448M
Co19        VB VM 5.35573228F  
Ro19        VB VM 1.6624909962G 
Go13        VM VB Plus Neg  25.2382937792U
.ENDS

.SUBCKT INA21Xopa_1 IGND ClkF2_ Startup IAVDD Neg OUT AVDD Bias Plus ClkF1_ 
+ ClkF1 ClkF2 VM GND nACm ACm 
XOutput2    VM Neg_94 IGND Bias IAVDD Startup OUT AVDD Plus_95 GND Output2_0
XInput2 VM Neg IGND ClkF2_ IAVDD Startup N_Out_97 ACm P_Out_96 Plus GND ClkF2 
+ AVDD Input2_0 
XSW_H1      Neg Plus ClkF2 ACm SW2_0
XSW_S1      N_Out_97 Neg_94 ClkF1 nACm SW2_0
XSW_S1_2    P_Out_96 Plus_95 ClkF1 nACm SW2_0
C36         Neg_94 OUT 6P  
C38         Plus_95 GND 6P  
.ENDS

.SUBCKT Output2_0 VM Neg IGND Bias IAVDD Startup OUT AVDD Plus GND
Vo21        IAVDD 113 1.7928273698
Vo22        112 IGND 1.7928273698
Co25        101 Vt0 1P 
EBMG        102 GND Vt0 0 1
XT4         101 101 AVDD AVDD Q_PMOS_OUT_L1_0
+ PARAMS: M=4 W=10U L=4U 
XT9         OUT 103 104 AVDD Q_PMOS_OUT_0
+ PARAMS: M=10 W=20U L=4.4U
XT7         104 VGP 106 AVDD Q_PMOS_OUT_L1_0
+ PARAMS: M=10 W=20U L=0.8U 
XT8         108 107 109 GND Q_NMOS_OUT_0
+ PARAMS: M=5 W=20U L=4.4U
XT1         110 102 GND GND Q_NMOS_OUT_L1_0
+ PARAMS: M=48 W=20U L=0.8U 
XT3         Vt0 Vt0 GND GND Q_NMOS_OUT_L1_0
+ PARAMS: M=6 W=10U L=4U 
XT2         109 VG GND GND Q_NMOS_OUT_L1_0
+ PARAMS: M=10 W=20U L=0.8U
XD7         VG 107 D_LIM1_0
XD6         103 VGP D_LIM1_0
XD5         GND VG D_LIM1_0
XD3         VGP AVDD D_LIM1_0
XD2         Vt0 101 D_LIM1_0
XD1         112 VV D_LIM4_0
XD4         VV 113 D_LIM4_0
EVMP2       AVDD 103 VALUE = {LIMIT(4*V(AVDD,101),0,V(AVDD,GND))}
Rsp1        AVDD 110 5.2K 
EVMN2       107 GND VALUE = {LIMIT(4.0*V(Vt0,GND),0,V(AVDD,GND))}
GVCCS1      101 Vt0 Bias GND  5U
Ro23        VM Neg 100G 
Ro22        Plus VM 100G 
Ro21        Neg Plus 1G 
Co21        Neg Plus 10F  
R91         114 VM 9 
L9          114 VM 143.2394487827N  
R5          OUT 108 60 
R0          AVDD 106 60 
Rpsrr1      101 Vt0 1T 
EVMP1       115 AVDD 101 AVDD  1
Rdn2        VGP 115 29.4937032473MEG 
Gdn2        115 VGP VM VV  50.4765875584U
EVMN1       116 GND Vt0 GND  1
Rdn1        VG 116 29.4937032473MEG 
Gdn1        116 VG VM VV  50.4765875584U
C5          108 VG 8P  
C4          VGP OUT 8P  
Co23        VM Neg 10F  
Co22        Plus VM 10F  
R83         VV 114 1 
G23         VM VV Plus Neg  1
.ENDS


.SUBCKT Input2_0 VM Neg IGND ClkF2_ IAVDD Startup N_Out ACm P_Out Plus GND ClkF2 
+ AVDD 
VPSref      119 GND 5
Vi2drop21   121 IGND 816.7233187092M
Vi2drop11   IAVDD 122 816.7233187092M
Vi2drop2    123 IGND 816.7233187092M
Vi2drop1    IAVDD 124 816.7233187092M
R201        120 VM 19.999 
L191        120 VM 159.1469853447N  
R191        Veps 120 1M 
G8ps        VM Veps 119 AVDD  14.197M
XD4         121 N_Out D_LIM1_0
XD3         N_Out 122 D_LIM1_0
XD2         123 P_Out D_LIM1_0
XD1         P_Out 124 D_LIM1_0
Ri23        VM Neg 100G 
Ri22        Plus VM 100G 
Ri21        Neg Plus 1G 
Ci23        VM Neg 100F  
Ci22        Plus VM 100F  
Ci21        Neg Plus 100F  
Ei22        VA+_118 VM VALUE = {LIMIT(V(Plus,Neg)+V(Veps,VM),-79.58M,79.58M)}
Ci28        N_Out VM 12.5211739527F  
Ci27        P_Out VM 12.5211739527F  
Ri28        N_Out VM 63.5543215409MEG 
Gi22        VM N_Out VM VA+_118  30.1592894745U
Ri27        P_Out VM 63.5543215409MEG 
Gi21        VM P_Out VA+_118 VM  30.1592894745U
.ENDS



.SUBCKT VOST_0   1 2
*OFFSET VOLTAGE, RTI(1) VOS VSENSE = 0MV ±20 ±70 UV
*VS TEMPERATURE DVOS/DT ±0.3 ±1.5 UV/°C
.PARAM I0 = 1M
*.PARAM DVOS_DT= {0.3U*5/6}
*.PARAM VOFFS = {20U*5/6 + 2*DVOS_DT}
.PARAM DVOS_DT= {0.3U*5}
.PARAM VOFFS = {20U*5 + 2*DVOS_DT}
.PARAM R0 = {VOFFS/I0}
.PARAM TC1= {DVOS_DT/R0/I0}

R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
E3 1 2 40 0 1
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS


.SUBCKT DZZ_15_80V_0  C1 C2 
D1 A1A2 C1 DZ_14V
D2 A1A2 C2 DZ_80V
.ENDS
*$
.SUBCKT D_D2_0       1    2
D1 1 2  D2
.ENDS
*$
.SUBCKT SW1_0  SP SM CP CM
R_SW1         Cp Cm 1G
S_SW1  Sp Sm Cp Cm SW1 
.ENDS 
*$
.SUBCKT SW2_0  SP SM CP CM
R_SW1         Cp Cm 1G
S_SW1  Sp Sm Cp Cm SW2 
.ENDS 
*$
*STORISTOR (TINA NETLIST EDITOR FORMAT)
********************************************
**  THIS FILE WAS CREATED BY TINA        **
**    (C) 1996-2006 DESIGNSOFT, INC.   **
********************************************
*{CAPACITOR EQUIVALENT RESISTANCE TSW/C}
.SUBCKT CEQRES_ACM_0  1 2 ACM PARAMS: C=1P TSW=1U
.PARAM FSW={1/(TSW+1E-15) }
.PARAM CFSW = {C*FSW}
.PARAM R1 = {1E9}
*R1          1 2 {TSW/C}
GCV1        1 2 VALUE = {IF (V(ACM,0) > 0.5, CFSW*V(1,2), 0)}
RCV1        1 2 {R1}
.ENDS
*$
*ZERO ORDER HOLD (TINA NETLIST EDITOR FORMAT)
********************************************
**  THIS FILE WAS CREATED BY TINA        **
**    (C) 1996-2006 DESIGNSOFT, INC.   **
********************************************
*{}
.SUBCKT ZOH_0  IN1 IN2 OUT GND ACM PARAMS:TSW=1U VOFFS=20U VLIMP=80M VLIMN=-80M 
.PARAM W0= {1/TSW}
*
E1        2 GND LAPLACE {V(IN1, IN2)} = {(1-EXP(-(S + 10M)*TSW))/((S + 10M)*TSW)}
E2        OUT GND VALUE = {IF (V(ACM,0) > 0.5, V(2,GND), V(IN1, IN2))}
.ENDS
*$
.SUBCKT D_LIM1_0   1 2
D1 1 2  D_LIM1
.ENDS
*$
.SUBCKT D_DB7_0      1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=1.25 RS=1 XTI=0  )
.ENDS
*$
.SUBCKT D_DB4_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=1.0 RS=20K XTI=0 )
.ENDS
*$
.SUBCKT D_DB2_0       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=2.0 RS=1K XTI=0)
.ENDS 
*$
.SUBCKT D_DB1_0       1    2
D1 1 2  DD
.MODEL DD D( IS=1P N=0.5 RS=20K XTI=0 EG=0.555)
.ENDS 
*$
.SUBCKT CLKF1_0  1 2 PARAMS: TR_MODE=0
.PARAM TR_TM = { IF (TR_MODE > 0.5, 1e-6, 1 ) }
*   If TR_MODE > 0.5 is TRUE, the time scale will be in usec.
*   If TR_MODE > 0.5 is FALSE, the time scale will be in sec.
VCLKF1      2 3 DC 0 AC 0 0 PWL 
+ 	TIME_SCALE_FACTOR = {TR_TM}
+	( 0, 0 ) 
+	(0.1, 0 )
+      REPEAT FOREVER 
+	( 0, 0 )
+       (+0.001, -1)
+       (+2.015, -1)
+       (+0.010, -1)
+       (+0.001, 0)
+       (+1.965, 0)
+       (+0.010, 0)
+      ENDREPEAT
VCLKF1_DC   3 1 1
.ENDS
*$
.SUBCKT ACMODE_0  1 2
+ PARAMS: TR_MODE=0
.PARAM TR_M = { IF (TR_MODE > 0.5, 1, 0 ) }
*
VACM        2 3 DC 0 AC 1 0
+ PULSE ( 0 {-TR_M} 100N  0  0  1E19 1E20 )
VACM_DC     3 1 1
.ENDS
*$
.SUBCKT CLKF1_1  1 2 PARAMS: TR_MODE=0
.PARAM TR_TM = {IF (TR_MODE > 0.5, 1e-6, 1)}
*   If TR_MODE > 0.5 is TRUE, the time scale will be in usec.
*   If TR_MODE > 0.5 is FALSE, the time scale will be in sec.
VCLKF32     2 1 DC 0 AC 0 0 PWL 
+ 	TIME_SCALE_FACTOR = {TR_TM}
+	( 0, 0 ) 
+	(0.125, 0 )
+      REPEAT FOREVER 
+	( 0, 0 )
+       (+0.001, 1)
+       (+0.05, 1)
+       (+0.001, 0)
+       (+3.95, 0)
+      ENDREPEAT
.ENDS
*$
.SUBCKT CLKF1_2  1 2 PARAMS: TR_MODE=0
.PARAM TR_TM = { IF (TR_MODE > 0.5, 1e-6, 1 ) }
*   If TR_MODE > 0.5 is TRUE, the time scale will be in usec.
*   If TR_MODE > 0.5 is FALSE, the time scale will be in sec.
VCLKF2      2 1 DC 0 AC 0 0 PWL 
+ 	TIME_SCALE_FACTOR = {TR_TM}
+	( 0, 0 ) 
+	(0.125, 0 )
+      REPEAT FOREVER 
+	( 0, 0 )
+       (+0.001, 1)
+       (+1.965, 1)
+       (+0.010, 1)
+       (+0.001, 0)
+       (+2.015, 0)
+       (+0.010, 0)
+      ENDREPEAT
.ENDS
*$
.SUBCKT D_LIM2_0   1 2
D1 1 2  D_LIM2
.ENDS
*$
.SUBCKT D_LIM4_0   1 2
D1 1 2  D_LIM4
.ENDS
*$
.SUBCKT D_D4_0       1    2
D1 1 2  DD
*.MODEL DD D( IS=10F N=2.5 RS=1 )
.MODEL DD D( IS=10F N=1.5 RS=1 XTI=3 EG={0.8*1.11})
.ENDS D_D4_0 
*$
.SUBCKT D_ZB1_0        1    2
D1 1 2  D_4_9V
CD 1 2 1P
*.MODEL D_4_9V D( IS=1F N=3.0 BV=4.9 IBV=1.0U RS=0 )
.MODEL D_4_9V D( IS=1F N=3.0 BV=5.9 IBV=1.0U RS=0 XTI=3 EG={1.0*1.11})
.ENDS 
*$
.SUBCKT HYSTCOMP_0  IN+ IN- OUT GND 
+ PARAMS: VTHRES=0 VHYST=1 VOUTH=5 VOUTL=0 ROUT=1 TDEL=1N
*
.PARAM RDEL = {IF ( (TDEL > 1E-15) & (ROUT < 1), 1, ROUT ) } 
.PARAM VOUTM={(VOUTH-VOUTL)/2}
.PARAM VTHH={VTHRES+VHYST}
.PARAM VTHL={VTHRES-VHYST}
.PARAM COUT={TDEL/(0.693*(RDEL+1U))}
*
ETHR THR GND VALUE= { IF ( V(OUT,GND) < {VOUTM}, {VTHH}, {VTHL}) }
EOUT OUT GND VALUE= { IF ( V(IN+,IN-) > V(THR,GND), VOUTH + RDEL*I(EOUT) , VOUTL + RDEL*I(EOUT)  ) }
COUT OUT GND {COUT}
.ENDS
*$
.SUBCKT Q_PMOS_0  D G S PARAMS: M=1 W=10U L=2U
*            D G S
MNI1 D G S S Q_PMOS M={M} L={L} W={W}
.ENDS
*$
.SUBCKT VOST_1   1 2 ACM
*OFFSET VOLTAGE, RTI(1) VOS VSENSE = 0MV ±20 ±70 UV
*VS TEMPERATURE DVOS/DT ±0.3 ±1.5 UV/°C
.PARAM I0 = 1M
.PARAM DVOS_DT= {0.3U*5/6}
.PARAM VOFFS = {20U*5/6 + 2*DVOS_DT}
.PARAM R0 = {VOFFS/I0}
.PARAM TC1= {DVOS_DT/R0/I0}
R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
*E3 1 2 40 0 1
E3 1 2 VALUE = {IF (V(ACM,0) > 0.5, V(40), V(40)-10.8U)}
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS
*$
.SUBCKT Q_PMOS_OUT_L1_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_OUT_L1 W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT Q_PMOS_OUT_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_OUT W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT Q_NMOS_OUT_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_OUT  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
.SUBCKT Q_NMOS_OUT_L1_0   D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_OUT_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$
*Parameters: 0.4um CMOS
.PARAM TOX = 80E-10
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM COX = {EPSSIO2/TOX}
.PARAM LS = 1.0U
.PARAM VTOHP = 0.75
.PARAM VTOHN = 0.75
.PARAM LAMBDA = 10M
*.PARAM GAMMA = 0.35
.PARAM GAMMA = 0.00
*.PARAM KAPPA = 0.2
.PARAM KAPPA = 1.0
*.PARAM THETA = 0.05
.PARAM THETA = 0.23
*.PARAM ETA = 1
.PARAM ETA = 3
*.PARAM KPN = 5.0E-05
*.PARAM KPP = 2.0E-05
.PARAM UON = 450
*.PARAM UOP = 450
.PARAM UOP = 150
.PARAM KPN = {UON*COX * 1e-4}
.PARAM KPP = {UOP*COX * 1e-4}
.PARAM LDN = 0.09U
.PARAM LDP = 0.09U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM RDS = 10MEG
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0 
.PARAM CBDS = 1.0
.PARAM CGBF = 1.0
.PARAM PBP = 0.7
.PARAM PBN = 0.7

*
.PARAM CJN = {200U}
.PARAM CJP = {400U} 
.PARAM CJSWN = {1.2N}
.PARAM CJSWP = {2.4N}
.PARAM XJN = 0.15U
.PARAM CGSON = {0.6*XJN*COX} 
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.18U
.PARAM CGSOP = {0.6*XJP*COX} 
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}


*$
.MODEL  SW1 VSWITCH RON=1300 ROFF=1E10 VON=0.6V VOFF=0.4V 
*$
.MODEL  SW2 VSWITCH RON=1300 ROFF=1E10 VON=0.6V VOFF=0.4V 
*$
.MODEL Q_NMOS NMOS Level=1 L=2U W=10U KP={KPN} VTO={VTOHN}  AF=0 KF=0
*$
.MODEL Q_PMOS PMOS Level=1 L=2U W=10U KP={KPP} VTO={-VTOHP}  AF=0 KF=0
*$
.MODEL Q_NMOS_Out_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} RDS={RDS} 
*$
.MODEL Q_NMOS_Out NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA={THETA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} RDS={RDS} TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
*$
.MODEL Q_PMOS_Out_L1 PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOHP} LAMBDA={LAMBDA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP} RDS={RDS} 
*$
.MODEL Q_PMOS_Out PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA={THETA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP} RDS={RDS} TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
*$
.MODEL D_Lim1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim2 D( IS=10f N=0.5 RS=1 XTI=0 AF=0 KF=0 EG=0.555 )
*$
.MODEL D_Lim3 D( IS=1E-18 N=1.0 RS=1 XTI=0 AF=0 KF=0)
*$
.MODEL D_Lim4 D( IS=10F N=1.0 RS=1m XTI=0 AF=0 KF=0)
*$
.MODEL D1 D( IS=1p N=1.0 RS=0 XTI=3 AF=0 KF=0 )
*$
.MODEL DZ_14V D( IS=1p N=1.0 BV=14.0 IBV=5.0M XTI=0 RS=10)
.MODEL DZ_80V D( IS=1p N=1.0 BV=80.0 IBV=5.0M XTI=0 RS=10)
*$
.MODEL D2 D( IS=1p N=1.0 XTI=0 RS=10)
*$
.SUBCKT SW Np Nm NCp NCm
+ PARAMS: VT=0 VH=0 RON=1 ROFF=1E12 TDEL=10N
*
*VT threshold voltage Volts 0.0 
*VH hysteresis voltage Volts 0.0 
*RON on resistance ohm 1.0 
*ROFF off resistance ohm 1/GMIN* 
*
.PARAM VTHH={VT+VH}
.PARAM VTHL={VT-VH}
.PARAM RD=1  
.PARAM CD={TDEL/(0.693*RD)}
.PARAM RSW={RON*ROFF/(ROFF - RON)}
.PARAM GSW={1/RSW}
*
R2 NCp 0 1E9
R3 NCm 0 1E9
R4 Np Nm {ROFF}
G1 Np Nm VALUE= { IF ( V(NCp,NCm) > V(CN), V(Np,Nm)*{GSW}, 0) }
E1 1 0 VALUE= { IF ( V(NCp,NCm) > V(CN), {VTHL}, {VTHH}) }
R1 1 CN {RD}
C1 CN 0 {CD}
.ENDS SW
*$


